US08334292B1
Step 1: Preparation of (R)-tert-butyl 3-((5-bromo-2-chloropyrimidin-4-yloxy)methyl)pyrrolidine-1-carboxylate
Using the procedure of Example 1 Step 1, 5-bromo-2,4-dichloropyrimidine was reacted with (R)-tert-butyl 3-(hydroxymethyl)pyrrolidine-1-carboxylate to provide the title compound. 1H NMR (CDCl3, 400 MHz) δ 8.42 (s, 1H), 4.10 (m, 2H), 3.62-3.17 (m, 5H), 2.72-2.69 (m, 1H), 2.10-2.05 (m, 2H), 1.80-1.75 (m, 1H), 1.44 (s, 9H); MS (ESI) m/z: Calc: 392.68 (M). Found. 337.9 (M+-(CH3)3C).

reactant | 5-bromo-2,4-dichloropyrimidine | BrC=1C(=NC(=NC1)Cl)Cl | C4HBrCl2N2
reactant | (R)-tert-butyl 3-(hydroxymethyl)pyrrolidine-1-carboxylate | OC[C@H]1CN(CC1)C(=O)OC(C)(C)C | C10H19NO3
product | (R)-tert-butyl 3-((5-bromo-2-chloropyrimidin-4-yloxy)methyl)pyrrolidine-1-carboxylate | BrC=1C(=NC(=NC1)Cl)OC[C@H]1CN(CC1)C(=O)OC(C)(C)C | C14H19BrClN3O3
